US04783471
Step A: 1-(2-Phenylethyl)piperidine-4-carboxaldehyde.
To a solution of 4-cyano-1-(2-phenylethyl)piperidine (6.5 g, 30.3 mmol) in dry toluene (100 ml) cooled in an ice bath was added dropwise 43 ml (43 mmol) of 1M diisobutylaluminum hydride in hexane. After the addition was complete, the mixture was warmed to room temperature and stirred overnight (16 h). Methanol was added to decompose any unreacted reagent and H2O was added with vigorous stirring. The gelatinous aluminum salts were removed by filtration through Celite and the filtrate extracted with toluene (2×100 ml). The extracts were combined, washed with saturated aqueous NaCl, dried (MgSO4) filtered and evaporated to give a clear oil. This oil was flash chromatographed on silica gel using acetone as eluent to give product as a clear oil, which was used without further purification.

reactant | 4-cyano-1-(2-phenylethyl)piperidine | 30.3 mmol, 6.5 g | C(#N)C1CCN(CC1)CCC1=CC=CC=C1 | C14H18N2
reactant | diisobutylaluminum hydride | 43 mmol, 1M, 43 ml | [H-].C(C(C)C)[Al+]CC(C)C
reactant | Methanol | CO | CH4O
reactant | H2O | O | H2O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | hexane | CCCCCC | C6H14
product | 1-(2-Phenylethyl)piperidine-4-carboxaldehyde | C1(=CC=CC=C1)CCN1CCC(CC1)C=O | C14H19NO
